US07794876B2
In 100 ml of methylene chloride were dissolved 10 g (79 mmol) of oxalyl chloride, to which a solution of 4.4 g (79 mmol) of propargyl alcohol and 6.4 ml (79 mmol) of pyridine dissolved in 30 ml of methylene chloride was slowly added dropwise over 1 hour with cooling with ice. The resulting mixture was stirred for 30 minutes at room temperature to produce propynyl chloroglyoxylate in the reaction system. Subsequently, a solution of 14.5 g (79 mmol) of pentafluorophenol and 6.4 ml (79 mmol) of pyridine dissolved in 30 ml of methylene chloride was slowly added dropwise to the reaction system with cooling with ice. The resulting mixture was stirred for 1 hour at room temperature and then filtered, washed with water, dried over anhydrous magnesium sulfate and concentrated. The thus obtained crude product was purified by crystallization to obtain 2.1 g of 2-propynyl pentafluorophenyl oxalate.

reactant | oxalyl chloride | 79 mmol, 10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | propargyl alcohol | 79 mmol, 4.4 g | C(C#C)O | C3H4O
reactant | pyridine | 79 mmol, 6.4 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | propynyl chloroglyoxylate | ClC(C(=O)OC#CC)=O | C5H3ClO3
